US07157455B2
4-amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid
To a stirred solution of 4-amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (24.0 g, 112.5 mmol, Salor) in ethanol (400 mL) and water (200 mL) was added lithium hydroxide (9.536 g, 225.0 mmol). The suspension was stirred at room temperature for 3 hours during which all the solids went into solution. The ethanol was removed in vacuo and additional water was added to make a total volume of 300 mL. The resulting solution was washed with 2×100 mL of ether which was discarded. To the aqueous solution was added concentrated hydrochloric acid (20 mL) to bring the pH of the aqueous solution to about pH 3 during which the desired product precipitated out. The product was filtered, washed with 25 mL of water, suction dried and then dried in a vacuum oven at 50° C. to give 20.6 g (98.8%) of the product as a white solid.

reactant | 4-amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 112.5 mmol, 24.0 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)N | C8H11N3O2S
reactant | lithium hydroxide | 225.0 mmol, 9.536 g | [OH-].[Li+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 4-amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid | 20.6 g, 98.8% | NC1=NC(=NC=C1C(=O)O)SC | C6H7N3O2S
